US09056852B2
The crude 1-methoxy-4-(2-methyl-2-nitropropyl)benzene (200 mg, 0.96 mmol) was combined with palladium on carbon (40 mg) in methanol (30 mL). The suspension was vigorously stirred at room temperature under a hydrogen atmosphere overnight. The mixture was filtered through Celite and the filtrate was concentrated to give 1-(4-methoxyphenyl)-2-methylpropan-2-amine (150 mg, 88% yield) as a yellow oil which was used without further purification. (MS m/z: 180 (M+1)).

reactant | 1-methoxy-4-(2-methyl-2-nitropropyl)benzene | 0.96 mmol, 200 mg | COC1=CC=C(C=C1)CC(C)([N+](=O)[O-])C | C11H15NO3
catalyst | palladium on carbon | 40 mg | [Pd] | Pd
solvent | methanol | 30 mL | CO | CH4O
product | 1-(4-methoxyphenyl)-2-methylpropan-2-amine | 150 mg, 88% yield | COC1=CC=C(C=C1)CC(C)(N)C | C11H17NO
